US08497397B2
(103b) N-[(E)-1-{[(2-Hydroxyethyl)amino]carbonyl}-2-(4-isopropoxyphenyl)vinyl]-4-isobutoxybenzamide
2-Aminoethanol (50 μL, 0.828 mmol) was added to a solution of toluene (2.0 mL) containing 2-(4-isobutoxyphenyl)-4-(4-isopropoxybenzylidene)-1,3-oxazol-5(4H)-one (151 mg, 0.398 mmol, a mixture of 4E isomer/4Z isomer=4.6/1) prepared in Example 103 (103a). The mixture was stirred at 50° C. for 15 minutes, and then water was added to this reaction solution. The resulting mixture was extracted with ethyl acetate. The organic layers were combined, washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by thin layer chromatography for separation (ethyl acetate) to give 37 mg of the title compound (white solid, yield: 21%). [In addition, 53 mg of the corresponding Z isomer of the title compound (white solid, yield: 30%) was given.]

reactant | 2-Aminoethanol | 0.828 mmol, 50 μL | NCCO | C2H7NO
reactant | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-(4-isobutoxyphenyl)-4-(4-isopropoxybenzylidene)-1,3-oxazol-5(4H)-one | C(C(C)C)OC1=CC=C(C=C1)C=1OC(C(N1)=CC1=CC=C(C=C1)OC(C)C)=O | C23H25NO4
solvent | water | O | H2O
product | N-[(E)-1-{[(2-Hydroxyethyl)amino]carbonyl}-2-(4-isopropoxyphenyl)vinyl]-4-isobutoxybenzamide | 37 mg, yield: 21% | OCCNC(=O)/C(=C\C1=CC=C(C=C1)OC(C)C)/NC(C1=CC=C(C=C1)OCC(C)C)=O | C25H32N2O5
